US05192766
N-(3,4,5-Trimethoxybenzenesulfonyl)piperazine
75 ml of a methylene chloride solution containing 7.40 g of 3,4,5-trimethoxybenzenesulfonyl chloride were dropped into 150 ml of a methylene chloride solution containing 3.80 g of N-formylpiperazine and 7.73 ml of triethylamine in an ice bath. The mixture was then stirred for 30 minutes at 0° to 5° C., after which it was poured into water and extracted twice with methylene chloride. The combined methylene chloride extracts were washed with 10% w/v aqueous hydrochloric acid and with a saturated aqueous solution of sodium chloride, dried over anhydrous sodium sulfate and condensed by evaporation under reduced pressure. The residue (9.86 g) was dissolved in a mixture of 150 ml of tetrahydrofuran, 75 ml of methanol and 50 ml of a 10% w/v aqueous solution of sodium hydroxide, and then stirred for 14 hours at room temperature. At the end of this time, the reaction solution was poured into water and extracted 4 times with methylene chloride. The combined methylene chloride extracts were washed with water, dried over anhydrous sodium sulfate and condensed by evaporation under reduced pressure. The residue was crystallized from a mixture of hexane and ethyl acetate, to give 7.02 g of the title compound as crystals, melting at 131° to 133° C.

reactant | methylene chloride | 75 ml | C(Cl)Cl | CH2Cl2
reactant | 3,4,5-trimethoxybenzenesulfonyl chloride | 7.40 g | COC=1C=C(C=C(C1OC)OC)S(=O)(=O)Cl | C9H11ClO5S
reactant | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
reactant | N-formylpiperazine | 3.80 g | C(=O)N1CCNCC1 | C5H10N2O
reactant | triethylamine | 7.73 ml | C(C)N(CC)CC | C6H15N
solvent | water | O | H2O
product | N-(3,4,5-Trimethoxybenzenesulfonyl)piperazine | 7.02 g | COC=1C=C(C=C(C1OC)OC)S(=O)(=O)N1CCNCC1 | C13H20N2O5S
